US05866568
1M sodium hydroxide solution (11.2 ml) was added to a solution of N-(isobutoxycarbonyl)-2-(4-isobutylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (2.6 g) in methanol (50 ml) and the mixture was stirred and heated under reflux for 30 minutes. Water (100 ml) was added and the mixture was acidified to pH 3 with 2M hydrochloric acid. This mixture was extracted with ethyl acetate (5×30 ml) and the extracts were washed with water (30 ml) and saturated sodium chloride solution and dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by gradient elution with 0-15% ethyl acetate/hexane through a silica gel Mega Bond Elut column followed by trituration with ether to give 2-(4-isobutylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (720 mg) as a solid, m.p. 128°-129° C.; 1H NMR (CDCl3): 0.95 (d, 6 H), 1.9 (m, 1 H), 2.3 (s, 3 H), 2.55 (d, 2 H), 3.8 (s, 3 H), 6.6 (s, 1 H), 7.1-7.3 (m, 4 H), 7.35 (s, 1 H), 7.5 (dd, 1 H), 8.7 (dd, 1 H), 8.8 (dd, 1 H); mass spectrum (positive electrospray (+ve ESP)): 413 (M+H)+.

reactant | sodium hydroxide | 1M, 11.2 ml | [OH-].[Na+]
reactant | N-(isobutoxycarbonyl)-2-(4-isobutylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 2.6 g | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)CC(C)C)C1=NC=C(N=C1OC)C | C26H32N4O5S
reactant | Water | 100 ml | O | H2O
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 2-(4-isobutylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 720 mg | C(C(C)C)C1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)NC1=NC=C(N=C1OC)C | C21H24N4O3S
